2126-12-18 07:50:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
 FEVER - 997.5
F - [**2126-12-17**] 04:00 PM
   - Intubated for bronchoscopy, right bronchus completely occluded, left
   intubated, and plan for transfer to West for procedure
   - A-line placed, PICC placed only midline
   - Agitated at time of intubation, dropped sats, dysynchronous with
   vent, improved greatly with sedation, prop, then fent/versed
   - Unfortunatley dropped pressures with sedation, requiring levophed.
   Able to wean down slightly while simultaneously weaning down sedation
   -> now off levo, on neo
   - Intermittently bradied down to 40's, improved with lightening
   sedation
   - Required many fluid boluses to maintain a UOP
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2126-12-18**] 03:00 AM
   Fentanyl - [**2126-12-18**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-12-18**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 536.4
C (997.5
   Tcurrent: 37.6
C (99.6
   HR: 102 (42 - 102) bpm
   BP: 93/71(82) {75/49(58) - 147/110(339)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,113 mL
                                                                  2,053 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,968 mL
                                                                  2,053 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    265 mL
   Urine:
                                                                  2,020 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,093 mL
                                                                  1,788 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (415 - 5,406) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 13 cmH2O
   Plateau: 12 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 91%
   ABG: 7.41/42/77.[**Numeric Identifier **]/27/1
   Ve: 8 L/min
   PaO2 / FiO2: 78
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly over vent)
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   689 K/uL
   10.0 g/dL
   82 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   30.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2126-12-17**]  05:39 AM
                             [**2126-12-17**]  06:45 AM
                             [**2126-12-17**]  03:48 PM
                             [**2126-12-17**]  05:09 PM
                             [**2126-12-17**]  05:42 PM
                             [**2126-12-17**]  10:50 PM
                             [**2126-12-18**]  04:44 AM
                             [**2126-12-18**]  05:02 AM
   WBC
   18.4
   16.1
   Hct
   33.7
   30.5
   Plt
   690
   689
   Cr
   0.6
   0.4
   0.5
   0.5
   TCO2
   25
   25
   23
   28
   Glucose
   112
   103
   266
   82
   Other labs: PT / PTT / INR:13.6/24.7/1.2, Differential-Neuts:88.6 %,
   Lymph:6.7 %, Mono:3.5 %, Eos:1.1 %, LDH:168 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: CT chest:
   1. Large heterogeneously enhancing right hilar and mediastinal mass
   extending from the right main stem bronchus and causing collapse of the
   right middle and right lower lobes. The right upper lobe bronchus may
   also be involved, but the right upper lung has not collapsed and is
   hyperexpanded. There is shift of the mediastinum towards the right.
   2. Mediastinal adenopathy.
   3. Hypodensities in the spleen and liver, incompletely evaluated on
   this
   examination. The liver lesion is too small to charaterize. The splenic
   lesion
   likely represents a hemangioma.
   4. The mediastinal mass extend to and may infiltrate into the esophagus
   as no
   fat planes separate the two and the proximal esophagus is dilated.
   .
   ASSESSMENT AND PLAN: 65F with hx of AF presenting with acute hypoxic
   respiratory failure in setting of new right lung mass and RML, RLL
   collapse.
   .
   #: Hypoxia Resp Failure: Initially managed on facemask from baseline
   room air.  Differential included RML, RLL collapse secondary to mass,
   post-obstructive PNA, COPD Exacerbation, less likely PE.  Patient
   electively intubated yesterday for bronch/biopsy of mediastinal mass.
   Unable to traverse right main stem, bronchial washings performed
   instead.  Hypoxemia worsened post-procedure likely [**1-14**] to dead space,
   improved with sedation and positioning patient on left side to improve
   V/Q matching in left lung.  Febrile this A.M. with elevated  white
   count, post-obstructive pneumonia on differential, will begin treatment
   today.  Patient has large A-A gradient, likely intra-pulmonic shunt
   physiology contributing to V/Q mismatch, ? extra-pulmonic shunt e.g.
   PFO.
   - Albuterol/Ipratropium PRN
   - will treat empirically with vanc, cefepime, levofloxacin
   - will cont CPAP to avoid auto-PEEP in left lung and subsequent
   re-distribution of perfusion to non-ventilated right lung
   - TTE to eval for ASD, overall systolic function
   .
   # Hypotension: Episode likely [**1-14**] sedation.  Positive pressure may also
   have obstructed venous return in setting of slight hypovolemia at
   baseline.  Stable with neo, although UOP not fluid responsive.
   - pt likely now adequately repleted
   - will place central line, switch neo to levo given inappropriate HR
   response
   - continue volume replacement, titrating to UOP > 30 cc/hr
   .
   # Mediastinal Mass: Differential includes a small-cell, lymphoma,
   non-small cell CA.
   - plan for emergent XRT tomorrow [**2126-12-19**]
   - will f/u cytology results today
   .
   # Poor [**Name (NI) 4684**] pt did receive adequate fluid resuscitation, with poor
   UOP.  Could have component of contrast-induced nephropathy, although
   only 24 hours removed from dye load.  Suspect patient was
   intravascularly depleted upon admission, and now with positive pressure
   may have limited venous return.
   -  IVF and TTE as above
   -  will check urine lytes
   .
   #: Atrial Fibrillation: Pt currently in NSR on Flecanide.  Episode of
   bradycardia overnight appeared to be sinus.
   - Cont Flecanide, change atenolol to metoprolol
   - Holding ASA in setting of likely Bx
   .
   #  FEN: IVF titrated to UOP > 30 cc/hr/Replete lytes PRN/NPO except
   meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-12-17**] 05:04 AM
   20 Gauge - [**2126-12-17**] 05:05 AM
   Arterial Line - [**2126-12-17**] 05:00 PM
   Midline - [**2126-12-17**] 10:30 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:   ranitidine
   VAP:  cefepime, vanc, levofloxacin
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2126-12-19 08:04:00 Physician Resident Progress Note
Chief Complaint: mediastinal mass
   24 Hour Events:
 MULTI LUMEN - START [**2126-12-18**] 05:15 PM
 FEVER - 102.7
F - [**2126-12-18**] 04:00 PM
   - cytology from BAL washing neg, will resend all suctioned material
   - spiked to 102, started levaquin/vanco/cefepime
   - rad/onc plans for XRT tomorrow
   - switched between CPAP and PSV intermittently, maintained OK sats in
   low 90s
   - Cousin from [**Country 10266**] called and wants to be kept informed with any
   changes.  She is making arrangements to come to the States.  [**First Name5 (NamePattern1) 1094**]
   [**Last Name (NamePattern1) 10265**].
   Phone: [**Telephone/Fax (3) 10278**]
   cell:  [**Telephone/Fax (5) 10279**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-18**] 08:02 PM
   Cefipime - [**2126-12-19**] 12:22 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2126-12-18**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**1-14**] sedation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-12-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.8
C (100.1
   HR: 91 (65 - 113) bpm
   BP: 105/49(65) {86/49(65) - 124/71(89)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (7 - 8)mmHg
   Total In:
                                                                  4,477 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  4,417 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                    718 mL
                                                                    290 mL
   Urine:
                                                                    718 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,759 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/48/68/23/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left chest, Diminished: right chest)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   635 K/uL
   9.8 g/dL
   89 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   9 mg/dL
   100 mEq/L
   131 mEq/L
   30.5 %
   20.9 K/uL
        [image002.jpg]
                             [**2126-12-17**]  05:42 PM
                             [**2126-12-17**]  10:50 PM
                             [**2126-12-18**]  04:44 AM
                             [**2126-12-18**]  05:02 AM
                             [**2126-12-18**]  10:16 AM
                             [**2126-12-18**]  02:54 PM
                             [**2126-12-18**]  07:19 PM
                             [**2126-12-19**]  01:56 AM
                             [**2126-12-19**]  02:09 AM
                             [**2126-12-19**]  05:52 AM
   WBC
   16.1
   20.9
   Hct
   30.5
   30.5
   Plt
   689
   635
   Cr
   0.5
   0.5
   0.5
   TCO2
   23
   28
   28
   26
   26
   28
   27
   Glucose
   266
   82
   89
   Other labs: PT / PTT / INR:13.6/24.7/1.2, Differential-Neuts:88.6 %,
   Lymph:6.7 %, Mono:3.5 %, Eos:1.1 %, LDH:168 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2126-12-18**] 8:46 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2126-12-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   [**2126-12-18**] blood, urine cx pending
   legionella urinary Ag (-)
   ECG: flipped T waves diffusely
   brief run of a. fib with RVR on tele
   ASSESSMENT AND PLAN: 65F with hx of AF presenting with acute hypoxic
   respiratory failure in setting of new right lung mass and RML, RLL
   collapse.
   .
   #: Hypoxia Resp Failure:  Differential included RML, RLL collapse
   secondary to mass, post-obstructive PNA, COPD Exacerbation, less likely
   PE.  Patient electively intubated for bronch/biopsy of mediastinal
   mass.  Unable to traverse right main stem, bronchial washings performed
   instead.  Subsequent occlusion of nearly occluded right-main stem, with
   complete collapse of right lung.  Hypoxemia worsened post-procedure
   likely [**1-14**] to large intra-pulmonic shunt, improved with sedation and
   positioning patient on left side to improve V/Q matching in left lung.
   Cont to be febrile. with elevated  white count, post-obstructive
   pneumonia considered, on empiric treatment.  Patient has large A-A
   gradient, likely intra-pulmonic shunt physiology contributing to V/Q
   mismatch, ? extra-pulmonic shunt e.g. PFO.
   - Albuterol/Ipratropium PRN
   - will treat empirically with vanc, cefepime, levofloxacin
   - will cont CPAP to avoid auto-PEEP in left lung and subsequent
   re-distribution of perfusion to non-ventilated right lung
   - TTE to eval for ASD, overall systolic function
   .
   # Hypotension:  Positive pressure may also have obstructed venous
   return in setting of slight hypovolemia at baseline.   Exacerbated by
   fever.  Stable with neo.  Right IJ in place.
   - cont IVF boluses PRN to maintain mean BP > 65, UOP > 30 cc/hr
   - attempt to wean levo as tolerated
   .
   # Mediastinal Mass: Differential includes a small-cell, lymphoma,
   non-small cell CA.
   - plan mapping and XRT tomorrow
   - will f/u cytology results today from bronchoscopy and brushing
   .
   # Fever- see above, likely post-obstructive PNA.  Cont to treat
   empirically, follow up culture data.  Treat fever with acetaminophen to
   avoid peripheral vasodilation and worsening of shunt.
   .
   # Poor [**Name (NI) 4684**] pt did receive adequate fluid resuscitation, with poor
   UOP.  Could have component of contrast-induced nephropathy, although
   only 24 hours removed from dye load.  Suspect patient was
   intravascularly depleted upon admission, and now with positive pressure
   may have limited venous return.  FeNa 0.3 suggests pre-renal
   physiology.
   -  IVF and TTE as above
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in NSR on Flecanide.  Episode of
   bradycardia overnight appeared to be sinus.
   - Cont Flecanide, change atenolol to metoprolol
   - Holding ASA in setting of likely Bx
   .
   # Hyponatremia: hypovolemic hyponatremia vs. SIADH.  Will check urine
   and plasma osmolality.  Suspect more appropriate secretion of ADH as
   etiology.  Will continue volume repletion as above.
   .
   #  FEN: IVF titrated to UOP > 30 cc/hr/Replete lytes PRN/NPO except
   meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-12-17**] 05:05 AM
   Arterial Line - [**2126-12-17**] 05:00 PM
   Midline - [**2126-12-17**] 10:30 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer:   ranitidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10**] ; HCP [**Name (NI) 760**]

2126-12-20 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - unable to schedule XRT
   - performed bedside mini-BAL -> totally occluded right main stem,
   brushings collected
   - recultured for temp
   - a. fib with RVR responded to dilt bolus x 2 in early morning, had to
   increase levophed
   - still have to pull back RIJ
   - TTE bubble study -> no extra-pulmonic shunt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-19**] 08:21 PM
   Cefipime - [**2126-12-20**] 12:46 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2126-12-19**] 03:45 PM
   Midazolam (Versed) - [**2126-12-19**] 03:45 PM
   Diltiazem - [**2126-12-20**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-20**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38
C (100.4
   HR: 127 (76 - 160) bpm
   BP: 100/56(72) {71/44(53) - 121/71(85)} mmHg
   RR: 16 (0 - 34) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68 kg (admission): 62.7 kg
    CVP: 5 (-2 - 6)mmHg
   Total In:
                                                                  3,223 mL
                                                                    869 mL
   PO:
   TF:
   IVF:
                                                                  3,043 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    315 mL
   Urine:
                                                                  1,220 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,003 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 92%
   ABG: 7.29/57/71/25/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 79
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   660 K/uL
   10.2 g/dL
   83 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   7 mg/dL
   101 mEq/L
   135 mEq/L
   30.7 %
   26.9 K/uL
        [image002.jpg]
                             [**2126-12-18**]  02:54 PM
                             [**2126-12-18**]  07:19 PM
                             [**2126-12-19**]  01:56 AM
                             [**2126-12-19**]  02:09 AM
                             [**2126-12-19**]  05:52 AM
                             [**2126-12-19**]  10:04 AM
                             [**2126-12-19**]  10:30 AM
                             [**2126-12-19**]  11:35 AM
                             [**2126-12-20**]  04:31 AM
                             [**2126-12-20**]  04:45 AM
   WBC
   20.9
   26.9
   Hct
   30.5
   30.7
   Plt
   635
   660
   Cr
   0.5
   0.3
   TropT
   <0.01
   TCO2
   26
   26
   28
   27
   27
   26
   29
   Glucose
   89
   83
   Other labs: PT / PTT / INR:15.2/27.7/1.3, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:168 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 65F with hx of AF presenting with acute hypoxic
   respiratory failure in setting of new right lung mass and RML, RLL
   collapse.
   .
   #: Hypoxic Resp Failure:  Differential includes RML, RLL collapse
   secondary to mass, post-obstructive PNA, COPD Exacerbation, less likely
   PE.  Patient electively intubated for bronch/biopsy of mediastinal
   mass.  Unable to traverse right main stem, bronchial washings performed
   instead.  Subsequent occlusion of nearly occluded right-main stem, with
   complete collapse of right lung.  Hypoxemia worsened post-procedure
   likely [**1-14**] to large intra-pulmonic shunt, improved with sedation and
   positioning patient on left side to improve V/Q matching in left lung.
   Cont to be febrile. with elevated  white count, post-obstructive
   pneumonia considered, on empiric treatment.  Patient has large A-A
   gradient, likely intra-pulmonic shunt physiology contributing to V/Q
   mismatch.
   - Albuterol/Ipratropium PRN
   - will treat empirically with vanc, cefepime, levofloxacin
   - will cont CPAP to avoid auto-PEEP in left lung and subsequent
   re-distribution of perfusion to non-ventilated right lung
   - TTE
 (-) for extrapulmonic shunt
   .
   #Fever/Leukocytosis:
   Post- Obstructive PNA vs. underlying malignancy.
   - continue empiric ABX as above.
   -f/u cx
   -tylenol PRN
   .
   # Hypotension:  Positive pressure may also have obstructed venous
   return in setting of slight hypovolemia at baseline.   Exacerbated by
   fever, AFIB with RVR.  Stable with neo.  Right IJ in place.  TTE with
   no evidence of systolic dysfunction or pericardial effusion.
   - cont IVF boluses PRN to maintain mean BP > 65, UOP > 30 cc/hr
   - attempt to wean levo as tolerated
   .
   # Mediastinal Mass: Differential includes a small-cell, lymphoma,
   non-small cell CA.
   - plan XRT today
   - will f/u cytology results today from bronchoscopy and brushing
   .
   # Poor [**Name (NI) 4684**] pt did receive adequate fluid resuscitation, with poor
   UOP.  Could have component of contrast-induced nephropathy, although
   only 24 hours removed from dye load.  Suspect patient was
   intravascularly depleted upon admission, and now with positive pressure
   may have limited venous return.  FeNa 0.3 suggests pre-renal
   physiology.
   -  IVF PRN
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in NSR on Flecanide.  Episode of
   bradycardia overnight appeared to be sinus.
   - Cont Flecanide, change atenolol to metoprolol, dilt bolus PRN
   - Restart ASA
   .
   # Hyponatremia: Resolved today
   .
   #  FEN: IVF titrated to UOP > 30 cc/hr/Replete lytes PRN/NPO except
   meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   20 Gauge - [**2126-12-19**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-12-21 08:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -Cells on washing and brushing c/w atypical squamous
   cell.  This is NOT diagnostic of squamous cell CA, and this could very
   well still be small cell.  Tissue basically non-diagnostic.
   - Got mapped and got massive dose of XRT, plan for once weekly
   24 Hour Events:
 RADIATION THERAPY - At [**2126-12-20**] 03:04 PM
   1 st high dose radiation tx. will repeate next thurs [**12-26**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-20**] 08:31 PM
   Cefipime - [**2126-12-21**] 12:36 AM
   Metronidazole - [**2126-12-21**] 04:03 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-21**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 66 (64 - 157) bpm
   BP: 102/66(83) {86/50(70) - 168/124(142)} mmHg
   RR: 15 (0 - 17) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 62.7 kg
   Height: 67 Inch
             Total In:
                                                                  3,196 mL
                                                                    564 mL
   PO:
             TF:
   IVF:
                                                                  3,196 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    490 mL
   Urine:
                                                                  2,075 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,121 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/46/75/28/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 83
   Physical Examination
   GEN: inubated, sedated but opens eyes to command
   HEENT: R IJ in place
   CV: RRR, no m/r/g
   PULM: decreased breath sounds on right
   AB: soft, NT/ND, +BS
   EXT: no edema, 2+ peripheral pulses
   NEURO: moves all extremities
   Labs / Radiology
   709 K/uL
   10.1 g/dL
   131 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   6 mg/dL
   102 mEq/L
   136 mEq/L
   32.2 %
   27.1 K/uL
        [image002.jpg]
                             [**2126-12-19**]  05:52 AM
                             [**2126-12-19**]  10:04 AM
                             [**2126-12-19**]  10:30 AM
                             [**2126-12-19**]  11:35 AM
                             [**2126-12-20**]  04:31 AM
                             [**2126-12-20**]  04:45 AM
                             [**2126-12-20**]  11:42 AM
                             [**2126-12-20**]  12:04 PM
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
   WBC
   26.9
   27.1
   Hct
   30.7
   32.2
   Plt
   660
   709
   Cr
   0.3
   0.3
   TropT
   <0.01
   TCO2
   27
   27
   26
   29
   28
   31
   Glucose
   83
   127
   131
   Other labs: PT / PTT / INR:16.8/28.7/1.5
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Cytology nondiagnostic (atypical squamous)
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings performed instead.  Subsequent occlusion of nearly
   occluded right-main stem, with complete collapse of right lung.
   Hypoxemia worsened post-procedure likely [**1-14**] to large intra-pulmonic
   shunt or severe V/Q mismatch, improved with sedation and positioning
   patient on left side to improve V/Q matching in left lung.  Now with
   likely post-obstructive pneumonia, improving in terms of fevers and
   white count today.  TTE
 (-) for extrapulmonic shunt
   - Albuterol/Ipratropium PRN
   - will treat empirically with vanc, cefepime, levofloxacin, Flagyl
   - trial recruitment manuevers today as blood pressure tolerates
   - weekly XRT to shrink mass and hopefuuly allow reexpansion
   .
   # Mediastinal Mass: Differential includes a small-cell or non-small
   cell CA. Cytology samples have been non-diagnostic. Had XRT yesterday.
   - weekly XRT
   - check tumor lysis labs [**Hospital1 **]
   - will need definitive tissue diagnosis if patient stabilizes, consider
   repeat cytology vs. plan for bx if XRT allows improvement in stability
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Afebrile x 24 hours and
   leukocytosis stabilized. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN
   .
   # Hypotension:  Initially thought to be [**1-14**] AFIB with RVR, adrenal
   insufficiency.  Now rate controlled and on stress dose steriods, but
   still hypotensive. On Levo.  TTE with no evidence of systolic
   dysfunction or pericardial effusion.
   - cont IVF boluses PRN to maintain mean BP > 65, UOP > 30 cc/hr
   - monitor CVP
   - attempt to wean pressors as tolerated
   .  will start vasopressor if pressors still required after adequate IVF
   .
   # Poor UOP- Adequate today and fluid responsive. 30-100cc/hr.
   -  IVF PRN as above
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in sinus on amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition: start TF at 20cc/hr, goal 45cc/hr
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   20 Gauge - [**2126-12-19**] 02:40 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:ICU

2126-12-21 13:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, Lung mass, hypotension, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 reduced to 0.8 this AM; O2 sat 93%. Continues on assist control.
   On levophed to sustain BP. Urine output remains good.
   24 Hour Events:
 RADIATION THERAPY - At [**2126-12-20**] 03:04 PM
   1 st high dose radiation tx. will repeate next thurs [**12-26**]
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-12-21**] 04:03 AM
   Vancomycin - [**2126-12-21**] 08:00 AM
   Cefipime - [**2126-12-21**] 11:45 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-12-21**] 11:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-21**] 01:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 64 (60 - 76) bpm
   BP: 100/66(79) {86/60(72) - 122/83(101)} mmHg
   RR: 16 (0 - 16) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 62.7 kg
   Height: 67 Inch
             Total In:
                                                                  3,196 mL
                                                                  1,207 mL
   PO:
             TF:
   IVF:
                                                                  3,196 mL
                                                                  1,087 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    853 mL
   Urine:
                                                                  2,075 mL
                                                                    853 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,121 mL
                                                                    354 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 91%
   ABG: 7.45/43/63/28/4
   Ve: 7.1 L/min
   PaO2 / FiO2: 79
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , Absent : Right, Rhonchorous: Left)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   709 K/uL
   131 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   6 mg/dL
   102 mEq/L
   136 mEq/L
   32.2 %
   27.1 K/uL
        [image002.jpg]
                             [**2126-12-19**]  10:04 AM
                             [**2126-12-19**]  10:30 AM
                             [**2126-12-19**]  11:35 AM
                             [**2126-12-20**]  04:31 AM
                             [**2126-12-20**]  04:45 AM
                             [**2126-12-20**]  11:42 AM
                             [**2126-12-20**]  12:04 PM
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
   WBC
   26.9
   27.1
   Hct
   30.7
   32.2
   Plt
   660
   709
   Cr
   0.3
   0.3
   TropT
   <0.01
   TCO2
   27
   26
   29
   28
   31
   31
   Glucose
   83
   127
   131
   Other labs: PT / PTT / INR:16.8/28.7/1.5, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:168 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
   LUNG CANCER
   ATELECTASIS - RIGHT LUNG
   PNEUMONIA
   AFIB
   ====================
   Continues to have high oxygen requirement with right lung atelectasis.
   At bronch, the right mainstem was not totally occluded; it's possible
   that there is atelectasis that might respond to recruitment maneuvers.
   Patient tolerated a 40 second maneuver but dropped BP with PEEP 10.
   Need to check CVP to see if she is relatively volume depeleted. She
   appears to be acting as if she has sepsis from pneumonia. If CVP low,
   give additional fluids and try additional recruitment maneuver with
   subsequent increase in PEEP to 10. If BP does not respond to fluids,
   would add vasopressin.
   Afib well controlled with amiodarone.
   XRT continues for lung ca/mass.
   Hct stable. No evidence for bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   20 Gauge - [**2126-12-19**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2126-12-22 08:05:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, mediastinal mass
   24 Hour Events:
   - low UOP, CVP 3-5, received IVF boluses prn
   - recruitment maneuvers not helpful
   - tumor lysis labs ok
   - desat to 70s, nothing seemed to help (suctioned, turned on left,
   tried gentle recruitment techniques, gave breaths by bagging to relieve
   autoPEEP), eventually improved to high 80s. We called in [**Doctor First Name 760**] and
   another friend, and they left when things stabilized. They would want
   to be called again if nothing similar were to happen and things not
   turning around quickly. We discussed that CPR was indicated and [**Doctor First Name 760**]
   agrees with our best judgement.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-12-21**] 07:30 PM
   Vancomycin - [**2126-12-21**] 08:07 PM
   Cefipime - [**2126-12-21**] 11:50 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-12-22**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-12-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 57 (55 - 65) bpm
   BP: 110/60(72) {88/46(56) - 122/60(72)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.1 kg (admission): 62.7 kg
   Height: 67 Inch
    CVP: 16 (2 - 16)mmHg
   Total In:
                                                                  6,299 mL
                                                                  1,539 mL
   PO:
   TF:
                                                                    200 mL
                                                                    232 mL
   IVF:
                                                                  5,709 mL
                                                                  1,188 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    130 mL
   Urine:
                                                                  1,123 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,176 mL
                                                                  1,409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 86%
   ABG: 7.42/44/51/24/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 51
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left, Diminished: right)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   621 K/uL
   9.0 g/dL
   130 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   28.2 %
   22.2 K/uL
        [image002.jpg]
                             [**2126-12-20**]  04:45 AM
                             [**2126-12-20**]  11:42 AM
                             [**2126-12-20**]  12:04 PM
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
   WBC
   27.1
   22.2
   Hct
   32.2
   28.2
   Plt
   709
   621
   Cr
   0.3
   0.4
   0.5
   TCO2
   29
   28
   31
   31
   29
   30
   Glucose
   127
   131
   114
   130
   Other labs: PT / PTT / INR:17.3/26.6/1.5, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:155 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Microbiology: culture data (-) to date
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings performed instead.  Subsequent occlusion of nearly
   occluded right-main stem, with complete collapse of right lung.
   Hypoxemia worsened post-procedure likely [**1-14**] to large intra-pulmonic
   shunt or severe V/Q mismatch, improved with sedation and positioning
   patient on left side to improve V/Q matching in left lung.  Now with
   likely post-obstructive pneumonia, improving in terms of fevers and
   white count today.  TTE
 (-) for extrapulmonic shunt.  Desaturation
   overnight possible [**1-14**] mucous plugging.
   - Albuterol/Ipratropium PRN
   - will cont ot treat empirically with vanc, cefepime, levofloxacin,
   Flagyl
   - wean FiO2 to limit oxygen toxicity
   - weekly XRT to shrink mass and hopefuly allow reexpansion
   .
   # Mediastinal Mass: Differential includes a small-cell or non-small
   cell CA, possible squamous cell. Cytology samples have been
   non-diagnostic. Had XRTon [**2126-12-20**].
   - weekly XRT
   - check tumor lysis labs [**Hospital1 **]
   - will need definitive tissue diagnosis if patient stabilizes, consider
   repeat cytology vs. plan for bx if XRT allows improvement in stability
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Afebrile x 48 hours and
   leukocytosis stabilized. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN to treat fevers
   .
   # Hypotension:  Initially thought to be [**1-14**] AFIB with RVR, adrenal
   insufficiency.  Now rate controlled and on stress dose steriods, but
   still hypotensive. On Levo.  TTE with no evidence of systolic
   dysfunction or pericardial effusion.
   - cont IVF boluses PRN to maintain mean BP > 65, UOP > 30 cc/hr; if no
   response to boluses, favor restarting levophed
   - monitor CVP
   - will continute vasopressin
   .
   # Poor UOP-  IVF PRN as above
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in sinus on amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-12-21**] 02:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  ranitidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition:  [**Hospital Unit Name 10**]

2126-12-22 09:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, lung ca, right lung
   atelectasis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's CVP 3-5 yesterday. Given 5-6 L of fluid; CVP now 7. Had
   problems with desaturation yesterday. Recruitment maneuvers attempted
   with questionable effect.
   Vasopressin added. Now on lower dose of levophed.
   Afebrile. Urine output approximately 50 cc/hr.
   Suctioned for some mucus plugs last night; none this AM.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-12-21**] 07:30 PM
   Cefipime - [**2126-12-21**] 11:50 PM
   Vancomycin - [**2126-12-22**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-12-22**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-22**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 57 (55 - 65) bpm
   BP: 110/60(72) {88/46(56) - 122/60(72)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.1 kg (admission): 62.7 kg
   Height: 67 Inch
   CVP: 16 (2 - 16)mmHg
   Total In:
                                                                  6,299 mL
                                                                  1,817 mL
   PO:
   TF:
                                                                    200 mL
                                                                    238 mL
   IVF:
                                                                  5,709 mL
                                                                  1,399 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    224 mL
   Urine:
                                                                  1,123 mL
                                                                    144 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  5,176 mL
                                                                  1,593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 86%
   ABG: 7.42/44/51/24/3
   Ve: 7 L/min
   PaO2 / FiO2: 51
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Left, No(t) Diminished: , Absent : Right)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   621 K/uL
   130 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   28.2 %
   22.2 K/uL
        [image002.jpg]
                             [**2126-12-20**]  04:45 AM
                             [**2126-12-20**]  11:42 AM
                             [**2126-12-20**]  12:04 PM
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
   WBC
   27.1
   22.2
   Hct
   32.2
   28.2
   Plt
   709
   621
   Cr
   0.3
   0.4
   0.5
   TCO2
   29
   28
   31
   31
   29
   30
   Glucose
   127
   131
   114
   130
   Other labs: PT / PTT / INR:17.3/26.6/1.5, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:155 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
   RIGHT LUNG ATELECTASIS
   LUNG MASS/CANCER
   ANEMIA
   AFIB
   =======================
   Patient's overall condition has worsened in last 12 hours. Attempts to
   reverse atelectasis in left lung not successful. Given the potential
   adverse hemodynamic consequences of inverse ratio ventilation, will go
   back to normal I/E ratio. Concern about O2 toxicity for left lung; will
   try to reduce FIO2. Monitor secretions.
   Patient continues on 2 pressors. Try to reduce levphed further today.
   Maintain CVP at 10-12.
   Urine output has decreased significantly in last few hours. No prologed
   episodes of hypotension. CVP  now 7; will try additional fluid boluses
   today. If patient continues at marked oliguric level, would consider
   lasix to try to achieve a non-oliguric renal failure to avert
   hyperkalemia and forestall dialysis.
   Is intermittently in afib today. Continue amiodarone.
   AFebrile. Continue antibiotics for presumed post-obstructive pneumonia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-12-23 07:40:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - tried to wean FiO2 to limit O2 toxicity, had to stop at 80%
   - urine Na < 10, CVP 6-8, UOP sub-optimal, all suggested hypovolemia
   - poor UOP response to IVF bolus alone, improved with levo; continued
   vasopressin
   - considered trial of lasix, ultimately decided against given support
   for hypolemia
   - still requiring large amount of support to maintain O2 sats in mid
   80s
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-22**] 09:15 PM
   Cefipime - [**2126-12-22**] 11:37 PM
   Metronidazole - [**2126-12-23**] 03:09 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-12-23**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   sedated, intubated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-12-23**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 53 (49 - 121) bpm
   BP: 110/75(91) {82/50(62) - 147/90(105)} mmHg
   RR: 18 (15 - 18) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 62.7 kg
   Height: 67 Inch
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  5,482 mL
                                                                    407 mL
   PO:
   TF:
                                                                    238 mL
   IVF:
                                                                  4,844 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                    819 mL
                                                                    195 mL
   Urine:
                                                                    539 mL
                                                                    195 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
   Balance:
                                                                  4,663 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 86%
   ABG: 7.43/41/49/23/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left, Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   692 K/uL
   9.3 g/dL
   129 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   29.4 %
   21.7 K/uL
        [image002.jpg]
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
                             [**2126-12-22**]  11:09 AM
                             [**2126-12-23**]  03:54 AM
                             [**2126-12-23**]  04:12 AM
   WBC
   27.1
   22.2
   21.7
   Hct
   32.2
   28.2
   29.4
   Plt
   [**Telephone/Fax (3) 10355**]
   Cr
   0.3
   0.4
   0.5
   0.5
   TCO2
   31
   31
   29
   30
   26
   28
   Glucose
   131
   114
   130
   129
   Other labs: PT / PTT / INR:15.8/25.5/1.4, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:221 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Microbiology: (-) culture data to date
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings performed instead.  Subsequent occlusion of nearly
   occluded right-main stem, with complete collapse of right lung.
   Hypoxemia worsened post-procedure likely [**1-14**] to large intra-pulmonic
   shunt or severe V/Q mismatch, improved with sedation and positioning
   patient on left side to improve V/Q matching in left lung.  Now with
   likely post-obstructive pneumonia, improving in terms of fevers and
   white count today.  TTE
 (-) for extrapulmonic shunt.  Desaturation
   overnight possible [**1-14**] mucous plugging.
   - Albuterol/Ipratropium PRN
   - will cont ot treat empirically with vanc, cefepime, levofloxacin,
   Flagyl
   - wean FiO2 to limit oxygen toxicity
   - weekly XRT to shrink mass and hopefuly allow reexpansion
   .
   # Mediastinal Mass: Differential includes a small-cell or non-small
   cell CA, possible squamous cell. Cytology samples have been
   non-diagnostic. Had XRTon [**2126-12-20**].
   - weekly XRT
   - check tumor lysis labs [**Hospital1 **]
   - will need definitive tissue diagnosis if patient stabilizes, consider
   repeat cytology vs. plan for bx if XRT allows improvement in stability
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Afebrile x 48 hours and
   leukocytosis stabilized. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN to treat fevers
   .
   # Hypotension:  Initially thought to be [**1-14**] AFIB with RVR, adrenal
   insufficiency.  Now rate controlled and on stress dose steriods, but
   still hypotensive. On Levo.  TTE with no evidence of systolic
   dysfunction or pericardial effusion.
   - cont IVF boluses PRN to maintain mean BP > 65, UOP > 30 cc/hr; if no
   response to boluses, favor restarting levophed
   - monitor CVP
   - will continute vasopressin
   .
   # Poor UOP-  IVF PRN as above
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in sinus on amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-12-23 07:53:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - tried to wean FiO2 to limit O2 toxicity, had to stop at 80%
   - urine Na < 10, CVP 6-8, UOP sub-optimal, all suggested hypovolemia
   - poor UOP response to IVF bolus alone, improved with levo; continued
   vasopressin
   - considered trial of lasix, ultimately decided against given support
   for hypolemia
   - still requiring large amount of support to maintain O2 sats in mid
   80s
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-22**] 09:15 PM
   Cefipime - [**2126-12-22**] 11:37 PM
   Metronidazole - [**2126-12-23**] 03:09 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-12-23**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-12-23**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 53 (49 - 121) bpm
   BP: 110/75(91) {82/50(62) - 147/90(105)} mmHg
   RR: 18 (15 - 18) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 62.7 kg
   Height: 67 Inch
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  5,482 mL
                                                                    410 mL
   PO:
   TF:
                                                                    238 mL
   IVF:
                                                                  4,844 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                    819 mL
                                                                    195 mL
   Urine:
                                                                    539 mL
                                                                    195 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
   Balance:
                                                                  4,663 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 86%
   ABG: 7.43/41/49/23/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left, Crackles : left, Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   692 K/uL
   9.3 g/dL
   129 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   29.4 %
   21.7 K/uL
        [image002.jpg]
                             [**2126-12-21**]  04:05 AM
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
                             [**2126-12-22**]  11:09 AM
                             [**2126-12-23**]  03:54 AM
                             [**2126-12-23**]  04:12 AM
   WBC
   27.1
   22.2
   21.7
   Hct
   32.2
   28.2
   29.4
   Plt
   [**Telephone/Fax (3) 10355**]
   Cr
   0.3
   0.4
   0.5
   0.5
   TCO2
   31
   31
   29
   30
   26
   28
   Glucose
   131
   114
   130
   129
   Other labs: PT / PTT / INR:15.8/25.5/1.4, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:221 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Microbiology: culture data (-) to date
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings performed instead.  Subsequent occlusion of nearly
   occluded right-main stem, with complete collapse of right lung.
   Hypoxemia worsened post-procedure likely [**1-14**] to large intra-pulmonic
   shunt or severe V/Q mismatch, improved with sedation and positioning
   patient on left side to improve V/Q matching in left lung.  Now with
   likely post-obstructive pneumonia, improving in terms of fevers and
   white count today.  TTE
 (-) for extrapulmonic shunt.  Recent
   desaturation possible [**1-14**] mucous plugging.  No significant changes in
   past 24 hours, continues to require near maximal ventilatory support to
   maintain marginal oxygenation.
   - Albuterol/Ipratropium PRN
   - will cont ot treat empirically with vanc, cefepime, levofloxacin,
   Flagyl
   - wean FiO2 to limit oxygen toxicity
   - weekly XRT to shrink mass and hopefuly allow reexpansion -> ? for Rad
   Onc -> if small cell, would expect to see response by now?
   - will repeat bronch to obtain tissue today
   .
   # Mediastinal Mass: Differential includes a small-cell or non-small
   cell CA, possible squamous cell. Cytology samples have been
   non-diagnostic. Had XRTon [**2126-12-20**].
   - weekly XRT
   - check tumor lysis labs [**Hospital1 **]
   - will need definitive tissue diagnosis if patient stabilizes, consider
   repeat cytology vs. plan for bx if XRT allows improvement in stability
   -> will discuss with Rad Onc re: response to XRT
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Afebrile x 72 hours and
   leukocytosis stabilized. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN to treat fevers
   .
   # Hypotension:  Initially thought to be [**1-14**] AFIB with RVR, adrenal
   insufficiency.  Now rate controlled and on stress dose steriods, but
   still hypotensive. On Levo.  TTE with no evidence of systolic
   dysfunction or pericardial effusion.  Poor urine response to IVF bolues
   - goal mean BP > 65 mmHg, favor restarting levophed, avoid fluid
   boluses today
   - monitor CVP
   - d/c  vasopressin
   .
   # Poor UOP- diurese if BP allows today
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in sinus on amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:   ranitidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition:  [**Last Name (LF) 10**], [**First Name3 (LF) 116**] d/[**Initials (NamePattern4) **] [**Name (NI) 760**], HCP, regarding [**Name2 (NI) **] prognosis if no
   response expected to XRT

2126-12-24 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   flipped in and out of afib- sinus rate was 70's, AFIB 130's - 160's,
   restarted dilt drip, did better
   Bronchoscopic biopsy performed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-23**] 08:45 PM
   Cefipime - [**2126-12-24**] 12:00 AM
   Metronidazole - [**2126-12-24**] 04:23 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Diltiazem - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2126-12-23**] 06:09 PM
   Furosemide (Lasix) - [**2126-12-23**] 06:41 PM
   Midazolam (Versed) - [**2126-12-23**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2126-12-24**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-24**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 57 (56 - 134) bpm
   BP: 84/63(75) {80/49(64) - 178/102(125)} mmHg
   RR: 16 (0 - 29) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 62.7 kg
   Height: 67 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  1,700 mL
                                                                    520 mL
   PO:
   TF:
   IVF:
                                                                  1,380 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                    505 mL
   Urine:
                                                                  3,530 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,830 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 87%
   ABG: ///27/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left, Crackles : left, Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   636 K/uL
   9.8 g/dL
   94 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.2 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   30.0 %
   20.5 K/uL
        [image002.jpg]
                             [**2126-12-21**]  04:24 AM
                             [**2126-12-21**]  12:29 PM
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
                             [**2126-12-22**]  11:09 AM
                             [**2126-12-23**]  03:54 AM
                             [**2126-12-23**]  04:12 AM
                             [**2126-12-24**]  03:00 AM
   WBC
   22.2
   21.7
   20.5
   Hct
   28.2
   29.4
   30.0
   Plt
   621
   692
   636
   Cr
   0.4
   0.5
   0.5
   0.4
   TCO2
   31
   31
   29
   30
   26
   28
   Glucose
   114
   130
   129
   94
   Other labs: PT / PTT / INR:15.8/25.5/1.4, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:221 IU/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings, then brushing, then biopsy perfomed on sequential
   bronchs.  Subsequent occlusion of nearly occluded right-main stem, with
   complete collapse of right lung.  Hypoxemia worsened post-procedure
   likely [**1-14**] to large intra-pulmonic shunt or severe V/Q mismatch,
   improved with sedation and positioning patient on left side to improve
   V/Q matching in left lung.  Now with likely post-obstructive pneumonia,
   improving in terms of fevers and white count today.  TTE
 (-) for
   extrapulmonic shunt.  No significant changes, continues to require near
   maximal ventilatory support to maintain marginal oxygenation.
   According to rad-onc, we should see a response by today at the latest.
   At this point she appears to be a treatment failure and extubation is
   unlikely.  Unfortunately a CMO discussion seems appropriate.
   - Albuterol/Ipratropium PRN
   - will cont ot treat empirically with vanc, cefepime, levofloxacin,
   Flagyl for post obstructive PNA
   - wean FiO2 to limit oxygen toxicity
   - weekly XRT to shrink mass and hopefuly allow reexpansion -> RAD ONC
   says we should see a response by today if there is going to be one
   .
   # Mediastinal Mass: Differential includes a small-cell or non-small
   cell CA, possible squamous cell. Cytology samples have been
   non-diagnostic. Had XRTon [**2126-12-20**].  Likely CMO as above.
   - Call cytology today for prelim read.
   - weekly XRT
   - check tumor lysis labs [**Hospital1 **]
   - will need definitive tissue diagnosis if patient stabilizes, consider
   repeat cytology vs. plan for bx if XRT allows improvement in stability
   -> will discuss with Rad Onc re: response to XRT
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Afebrile x 72 hours and
   leukocytosis stabilized. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN to treat fevers
   .
   # Hypotension:  Initially thought to be [**1-14**] AFIB with RVR, adrenal
   insufficiency.  Now rate controlled and on stress dose steriods, but
   still hypotensive. On Levo.  TTE with no evidence of systolic
   dysfunction or pericardial effusion.  Poor urine response to IVF bolues
   - goal mean BP > 65 mmHg, favor restarting levophed, avoid fluid
   boluses today
   - monitor CVP
   - d/c  vasopressin
   .
   # Poor UOP- diurese if BP allows today
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in sinus on amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:   ranitidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition:  [**Last Name (LF) 10**], [**First Name3 (LF) 116**] d/[**Initials (NamePattern4) **] [**Name (NI) 760**], HCP, regarding [**Name2 (NI) **] prognosis if no
   response expected to XRT

2126-12-25 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - fam mtg --> fam to decide plan tomorrow re: possible
   extubation
   - no escalation of care
   - path still inconclusive
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-12-24**] 08:42 AM
   Levofloxacin - [**2126-12-24**] 10:06 AM
   Cefipime - [**2126-12-25**] 12:00 AM
   Metronidazole - [**2126-12-25**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2126-12-24**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-12-25**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 117 (56 - 146) bpm
   BP: 121/84(97) {65/48(60) - 137/102(115)} mmHg
   RR: 0 (0 - 23) insp/min
   SpO2: 83%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 62.7 kg
   Height: 67 Inch
    CVP: 6 (-4 - 6)mmHg
   Total In:
                                                                  2,174 mL
                                                                    324 mL
   PO:
   TF:
   IVF:
                                                                  2,074 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                    933 mL
                                                                    100 mL
   Urine:
                                                                    933 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,441 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 90%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 83%
   ABG: 7.49/41/64/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 71
   Physical Examination
   General Appearance: Well nourished, No acute distress, awakens to
   verbal stimuli, responds to questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   left, Crackles : left, Diminished: right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   730 K/uL
   10.2 g/dL
   124 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   18 mg/dL
   108 mEq/L
   140 mEq/L
   31.9 %
   23.4 K/uL
        [image002.jpg]
                             [**2126-12-21**]  03:00 PM
                             [**2126-12-21**]  11:30 PM
                             [**2126-12-22**]  03:15 AM
                             [**2126-12-22**]  03:34 AM
                             [**2126-12-22**]  11:09 AM
                             [**2126-12-23**]  03:54 AM
                             [**2126-12-23**]  04:12 AM
                             [**2126-12-24**]  03:00 AM
                             [**2126-12-25**]  04:06 AM
                             [**2126-12-25**]  04:31 AM
   WBC
   22.2
   21.7
   20.5
   23.4
   Hct
   28.2
   29.4
   30.0
   31.9
   Plt
   621
   692
   636
   730
   Cr
   0.4
   0.5
   0.5
   0.4
   0.4
   TCO2
   29
   30
   26
   28
   32
   Glucose
   114
   130
   129
   94
   124
   Other labs: PT / PTT / INR:15.8/25.5/1.4, CK / CKMB /
   Troponin-T:406/4/<0.01, Differential-Neuts:88.6 %, Lymph:6.7 %,
   Mono:3.5 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, LDH:221 IU/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   65F with hx of AF presenting with acute hypoxic respiratory failure in
   setting of new right lung mass and RML, RLL collapse.
   .
   #: Hypoxic Resp Failure:  Patient electively intubated for
   bronch/biopsy of mediastinal mass.  Unable to traverse right main stem,
   bronchial washings, then brushing, then biopsy perfomed on sequential
   bronchs.  Subsequent occlusion of nearly occluded right-main stem, with
   complete collapse of right lung.  Hypoxemia worsened post-procedure
   likely [**1-14**] to large intra-pulmonic shunt or severe V/Q mismatch,
   improved with sedation and positioning patient on left side to improve
   V/Q matching in left lung.  Now with likely post-obstructive
   pneumonia.  TTE  (-) for extrapulmonic shunt.  No significant changes,
   continues to require near maximal ventilatory support to maintain
   marginal oxygenation.  She received high dose XRT with no response. We
   have been unable to make tissue dx, but squamous cell likely. At this
   point she appears to be a treatment failure and discussion with HCP
   yesterday will likely lead to CMO.
   - Albuterol/Ipratropium PRN
   - will cont ot treat empirically with vanc, cefepime, levofloxacin,
   Flagyl for post obstructive PNA
   - discuss extubation and CMO with HCP today
   .
   #Fever/Leukocytosis:
   Likely septic from post- Obstructive PNA. Has been afebrile for several
   days on abx. No organism identified.
   - continue empiric ABX as above for VAP course
   -f/u cx, CIS
   -tylenol PRN to treat fevers
   .
   # Hypotension:  [**1-14**] sepsis. Patient is also being treated for adrenal
   insufficiency, without much improvement in pressures.   CVP low but pt
   has poor urine response to IVF bolues. On levophed.
   - goal mean BP > 65 mmHg
   .
   # T wave inversions- diffuse inferiorly, anteriorly, and laterally,
   does not correspond to any one territory.  Likely [**1-14**] hypoxemia.  Cont
   to monitor.  Cardiac enzymes (-).
   .
   #: Atrial Fibrillation: Pt currently in AF intermittently on
   amiodarone.
   - cont amio PO load, 400 mg TID
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2126-12-17**] 05:00 PM
   Multi Lumen - [**2126-12-18**] 05:15 PM
   Prophylaxis:
   DVT:  none
   Stress ulcer:   ranitidine
   VAP:  see above
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition:  [**Hospital Unit Name 10**]
   ------ Protected Section ------
   Critical Care
   After further discussion with Ms [**Known lastname 10293**] and her family and friends we
   proceeded to make her comfort our only goal. We have reduced her FIO2
   and we have discontinued all meds not directed at comfort.
   Time spent 45 min
   Critcally ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2126-12-25**] 18:55 ------